US07563910B2
Preparation of 5-Methyl-1-(tetrahydro-pyran-2-ylmethyl)-2-(4-trifluoromethoxy-phenyl)-1H-imidazole-4-carboxylic acid piperidin-1-ylamide
To a suspension of 100 mg of 5-methyl-2-(4-trifluoromethoxy-phenyl)-1H-imidazole-4-carboxylic acid piperidin-1-ylamide in 3 ml of acetonitrile was added 33 mg of potassium tert-butylate and the reaction mixture was stirred at room temperature for 2 minutes. After such time, 0.034 ml of 2-(bromomethyl)-tetrahydro-2H-pyran (as R3—(CH2)m—Br) was added and the reaction mixture was stirred at 100° C. for 26 hours under argon atmosphere. The reaction mixture was then diluted with ethylacetate/water, the aqueous phase removed, and the organic phase was washed with 2×H2O followed by brine, dried (MgSO4), and after filtration concentrated in vacuo and purified by column chromatography (50 g SiO2, CH2Cl2/MeOH: 24/1) to give 44 mg of the title compound as a pale yellow solid, MS (ISP) 467.2 (M+H)+.

reactant | 5-methyl-2-(4-trifluoromethoxy-phenyl)-1H-imidazole-4-carboxylic acid piperidin-1-ylamide | 100 mg | N1(CCCCC1)NC(=O)C=1N=C(NC1C)C1=CC=C(C=C1)OC(F)(F)F | C17H19F3N4O2
reactant | potassium tert-butylate | 33 mg | CC(C)(C)[O-].[K+]
reactant | 2-(bromomethyl)-tetrahydro-2H-pyran | 0.034 ml | BrCC1OCCCC1 | C6H11BrO
solvent | acetonitrile | 3 ml | C(C)#N | C2H3N
solvent | ethylacetate water | C(C)OC(C)=O.O
product | 5-Methyl-1-(tetrahydro-pyran-2-ylmethyl)-2-(4-trifluoromethoxy-phenyl)-1H-imidazole-4-carboxylic acid piperidin-1-ylamide | 44 mg | N1(CCCCC1)NC(=O)C=1N=C(N(C1C)CC1OCCCC1)C1=CC=C(C=C1)OC(F)(F)F | C23H29F3N4O3
